US09193728B2
Sodium cyanide (38.6 g, 787.7 mmol, 1.5 equiv), 5-(chloromethyl)-2-methylpyridine (74.37 g, 527.4 mmol, 1 equiv) and DMSO (750 mL, 10 vol) were charged into a reactor and placed under nitrogen. This exothermic mixture self-heated to ca. 45° C. and was heated to 60° C. After 15 min, TLC (eluent: EtOAc:heptanes 50/50) indicated that the reaction was completed. The mixture was cooled to RT and water (1500 mL, 20 vol) was added slowly; the exotherm was controlled by the addition rate. The solution was extracted with EtOAc (4×750 mL), and the combined organic layer was concentrated under reduced pressure. The resulting oil was purified by chromatography (eluent: EtOAc), to obtain 2-(6-methylpyridin-3-yl)acetonitrile.

reactant | Sodium cyanide | 787.7 mmol, 38.6 g, 1.5 equiv | [C-]#N.[Na+]
reactant | 5-(chloromethyl)-2-methylpyridine | 527.4 mmol, 74.37 g, 1 equiv | ClCC=1C=CC(=NC1)C | C7H8ClN
reactant | DMSO | 750 mL | CS(=O)C | C2H6OS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 1500 mL | O | H2O
product | 2-(6-methylpyridin-3-yl)acetonitrile | CC1=CC=C(C=N1)CC#N | C8H8N2
